US05037824
To a solution of acetophenone (7.4 g) and 4N-sodium hydroxide solution (16 ml) in ethanol {60 ml) was added 4-methyl-3-nitrobenzaldehyde (7.4 g) at ambient temperature under stirring and the resultant mixture was stirred at same condition for 1.5 hours. To the reaction mixture was added water and resulting precipitate was collected by filtration. The precipitate was dissolved in a mixture of ethyl acetate and tetrahydrofuran. The solution was washed with brine and dried over magnesium sulfate. The solvent was concentrated in vacuo and the crystalline residue was collected by filtration to give 3-(4-methyl-3-nitrophenyl)-1-phenyl-2-propen-1-one (10.25 g).

reactant | acetophenone | 7.4 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium hydroxide | 16 ml | [OH-].[Na+]
reactant | 4-methyl-3-nitrobenzaldehyde | 7.4 g | CC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO3
reactant | water | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(4-methyl-3-nitrophenyl)-1-phenyl-2-propen-1-one | 10.25 g | CC1=C(C=C(C=C1)C=CC(=O)C1=CC=CC=C1)[N+](=O)[O-] | C16H13NO3
